* source I-COMPARADOR-01
V_VNMOS2         N46564 0 3.3
M_M5         N46696 N47946 N46564 N46564 CMOSP  
+ L=1u  
+ W=37.09u         
V_VNMOS         N40482 0 .5
M_M3         N46696 N47946 0 0 CMOSN  
+ L=1u  
+ W=8.003u         
M_M2         N40219 N40482 0 0 CMOSN  
+ L=.18u  
+ W=20u         
M_M4         0 N40501 N40242 N40242 CMOSP  
+ L=.18u  
+ W=20u         
V_VNMOS1         N47946 0 .5
V_VPMOS         N40501 0 2.8
V_VDD         N40219 0 1
V_VDD1         N40242 0 3.3
