* source I-COMPARADOR-01
M_M7         VOUT N22704 0 0 CMOSN  
+ L=3u  
+ W=9u         
V_V2         N22910 0 1
V_Vbias         N22974 0 .45
M_M1         N22708 N22916 N22730 0 CMOSN  
+ L=3u  
+ W=9u         
V_Vdd         N22786 0 3
M_M2         N22704 N22910 N22730 0 CMOSN  
+ L=3u  
+ W=9u         
M_M4         N22704 N22708 N22786 N22786 CMOSP  
+ L=12u  
+ W=20u         
V_V5         N22916 0  
+SIN 1 50m 100k 0 0 0
M_M5         N22730 N22974 0 0 CMOSN  
+ L=4u  
+ W=16u         
M_M9         N22708 N22708 N22786 N22786 CMOSP  
+ L=12u  
+ W=20u         
M_M6         VOUT N22704 N22786 N22786 CMOSP  
+ L=12u  
+ W=20u         
