* source I-COMPARADOR-01
M_M2         VDIFERENCIAL IN+ VEQUILIBRIO 0 CMOSN  
+ L=.18u  
+ W=430u         
M_M3         N39461 N39461 N39211 N39211 CMOSP  
+ L=1u  
+ W=2.317u         
M_M4         VDIFERENCIAL N39461 N39211 N39211 CMOSP  
+ L=1u  
+ W=2.317u         
M_M5         VEQUILIBRIO VBIAS 0 0 CMOSN  
+ L=20u  
+ W=20u         
V_VQ+         IN+ 0 1
M_M6         OUT VDIFERENCIAL N39211 N39211 CMOSP  
+ L=1u  
+ W=37.09u         
V_VBIAS         VBIAS 0 .55
M_M7         OUT VBIAS 0 0 CMOSN  
+ L=1u  
+ W=8u         
V_VQ-         IN- 0 1
M_M1         N39461 IN- VEQUILIBRIO 0 CMOSN  
+ L=.18u  
+ W=430u         
V_VDD         N39211 0 3.3
