* source I-COMPARADOR-01
V_VDD         N42003 0 3.3
V_VIN         INNEG 0 1
V_VREF         INPOS 0 1
M_M2         NDPOS INPOS NDBIAS 0 CMOSN  
+ L=.2u  
+ W=.8u         
M_M4         NDPOS NDNEG N42003 N42003 CMOSP  
+ L=.2u  
+ W=1u         
M_M1         NDNEG INNEG NDBIAS 0 CMOSN  
+ L=.2u  
+ W=.8u         
M_M5         NDBIAS N41991 0 0 CMOSN  
+ L=.2u  
+ W=.8u         
M_M9         NDNEG NDNEG N42003 N42003 CMOSP  
+ L=.2u  
+ W=1u         
M_M6         NOUT NDPOS N42003 N42003 CMOSP  
+ L=.2u  
+ W=1.2u         
M_M7         NOUT NDPOS 0 0 CMOSN  
+ L=.2u  
+ W=.8u         
V_VBIAS         N41991 0 .33
