* source I-DECODER-001
R_DECODER-8_7-NAND1_R4         N00537 0  10Meg  
M_DECODER-8_7-NAND1_M2         DECODER-8_7-NAND1_N38454 0
+  DECODER-8_7-NAND1_N38740 0 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER-8_7-NAND1_M6         DECODER-8_7-NAND1_N38740 0
+  DECODER-8_7-NAND1_N38778 0 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER-8_7-NAND1_M8         DECODER-8_LSB-2 N00537 N00201 N00201 CMOSP  
+ L=.5u  
+ W=5u         
M_DECODER-8_7-NAND1_M14         DECODER-8_7-NAND1_N43125 N00537 0 0 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER-8_7-NAND1_M11         DECODER-8_LSB-2 0 N00201 N00201 CMOSP  
+ L=.5u  
+ W=5u         
R_DECODER-8_7-NAND1_R7         N00537 0  10Meg  
M_DECODER-8_7-NAND1_M3         DECODER-8_LSB-2 0 N00201 N00201 CMOSP  
+ L=.5u  
+ W=5u         
R_DECODER-8_7-NAND1_R1         0 0  10Meg  
M_DECODER-8_7-NAND1_M4         DECODER-8_LSB-2 0 N00201 N00201 CMOSP  
+ L=.5u  
+ W=5u         
R_DECODER-8_7-NAND1_R2         0 0  10Meg  
R_DECODER-8_7-NAND1_R5         N00537 0  10Meg  
R_DECODER-8_7-NAND1_R3         0 0  10Meg  
M_DECODER-8_7-NAND1_M13         DECODER-8_7-NAND1_N43046 N00537
+  DECODER-8_7-NAND1_N43125 0 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER-8_7-NAND1_M9         DECODER-8_LSB-2 N00537 N00201 N00201 CMOSP  
+ L=.5u  
+ W=5u         
R_DECODER-8_7-NAND1_R6         N00537 0  10Meg  
M_DECODER-8_7-NAND1_M12         DECODER-8_LSB-2 N00537 N00201 N00201 CMOSP  
+ L=.5u  
+ W=5u         
M_DECODER-8_7-NAND1_M7         DECODER-8_7-NAND1_N38778 N00537
+  DECODER-8_7-NAND1_N39060 0 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER-8_7-NAND1_M5         DECODER-8_LSB-2 N00537 N00201 N00201 CMOSP  
+ L=.5u  
+ W=5u         
M_DECODER-8_7-NAND1_M1         DECODER-8_LSB-2 0 DECODER-8_7-NAND1_N38454 0
+  CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER-8_7-NAND1_M10         DECODER-8_7-NAND1_N39060 N00537
+  DECODER-8_7-NAND1_N43046 0 CMOSN  
+ L=.5u  
+ W=.8u         
R_DECODER-8_7-NAND_R4         N00537 0  10Meg  
M_DECODER-8_7-NAND_M2         DECODER-8_7-NAND_N38454 N00537
+  DECODER-8_7-NAND_N38740 0 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER-8_7-NAND_M6         DECODER-8_7-NAND_N38740 N00537
+  DECODER-8_7-NAND_N38778 0 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER-8_7-NAND_M8         DECODER-8_LSB-1 N00537 N00201 N00201 CMOSP  
+ L=.5u  
+ W=5u         
M_DECODER-8_7-NAND_M14         DECODER-8_7-NAND_N43125 N00537 0 0 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER-8_7-NAND_M11         DECODER-8_LSB-1 0 N00201 N00201 CMOSP  
+ L=.5u  
+ W=5u         
R_DECODER-8_7-NAND_R7         N00537 0  10Meg  
M_DECODER-8_7-NAND_M3         DECODER-8_LSB-1 N00537 N00201 N00201 CMOSP  
+ L=.5u  
+ W=5u         
R_DECODER-8_7-NAND_R1         0 0  10Meg  
M_DECODER-8_7-NAND_M4         DECODER-8_LSB-1 N00537 N00201 N00201 CMOSP  
+ L=.5u  
+ W=5u         
R_DECODER-8_7-NAND_R2         N00537 0  10Meg  
R_DECODER-8_7-NAND_R5         N00537 0  10Meg  
R_DECODER-8_7-NAND_R3         N00537 0  10Meg  
M_DECODER-8_7-NAND_M13         DECODER-8_7-NAND_N43046 N00537
+  DECODER-8_7-NAND_N43125 0 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER-8_7-NAND_M9         DECODER-8_LSB-1 N00537 N00201 N00201 CMOSP  
+ L=.5u  
+ W=5u         
R_DECODER-8_7-NAND_R6         N00537 0  10Meg  
M_DECODER-8_7-NAND_M12         DECODER-8_LSB-1 N00537 N00201 N00201 CMOSP  
+ L=.5u  
+ W=5u         
M_DECODER-8_7-NAND_M7         DECODER-8_7-NAND_N38778 N00537
+  DECODER-8_7-NAND_N39060 0 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER-8_7-NAND_M5         DECODER-8_LSB-1 N00537 N00201 N00201 CMOSP  
+ L=.5u  
+ W=5u         
M_DECODER-8_7-NAND_M1         DECODER-8_LSB-1 0 DECODER-8_7-NAND_N38454 0 CMOSN
+   
+ L=.5u  
+ W=.8u         
M_DECODER-8_7-NAND_M10         DECODER-8_7-NAND_N39060 N00537
+  DECODER-8_7-NAND_N43046 0 CMOSN  
+ L=.5u  
+ W=.8u         
R_DECODER-8_7-NAND2_R4         0 0  10Meg  
M_DECODER-8_7-NAND2_M2         DECODER-8_7-NAND2_N38454 0
+  DECODER-8_7-NAND2_N38740 0 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER-8_7-NAND2_M6         DECODER-8_7-NAND2_N38740 0
+  DECODER-8_7-NAND2_N38778 0 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER-8_7-NAND2_M8         DECODER-8_LSB-3 N00537 N00201 N00201 CMOSP  
+ L=.5u  
+ W=5u         
M_DECODER-8_7-NAND2_M14         DECODER-8_7-NAND2_N43125 N00537 0 0 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER-8_7-NAND2_M11         DECODER-8_LSB-3 0 N00201 N00201 CMOSP  
+ L=.5u  
+ W=5u         
R_DECODER-8_7-NAND2_R7         N00537 0  10Meg  
M_DECODER-8_7-NAND2_M3         DECODER-8_LSB-3 0 N00201 N00201 CMOSP  
+ L=.5u  
+ W=5u         
R_DECODER-8_7-NAND2_R1         0 0  10Meg  
M_DECODER-8_7-NAND2_M4         DECODER-8_LSB-3 0 N00201 N00201 CMOSP  
+ L=.5u  
+ W=5u         
R_DECODER-8_7-NAND2_R2         0 0  10Meg  
R_DECODER-8_7-NAND2_R5         0 0  10Meg  
R_DECODER-8_7-NAND2_R3         0 0  10Meg  
M_DECODER-8_7-NAND2_M13         DECODER-8_7-NAND2_N43046 N00537
+  DECODER-8_7-NAND2_N43125 0 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER-8_7-NAND2_M9         DECODER-8_LSB-3 0 N00201 N00201 CMOSP  
+ L=.5u  
+ W=5u         
R_DECODER-8_7-NAND2_R6         N00537 0  10Meg  
M_DECODER-8_7-NAND2_M12         DECODER-8_LSB-3 0 N00201 N00201 CMOSP  
+ L=.5u  
+ W=5u         
M_DECODER-8_7-NAND2_M7         DECODER-8_7-NAND2_N38778 0
+  DECODER-8_7-NAND2_N39060 0 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER-8_7-NAND2_M5         DECODER-8_LSB-3 N00537 N00201 N00201 CMOSP  
+ L=.5u  
+ W=5u         
M_DECODER-8_7-NAND2_M1         DECODER-8_LSB-3 0 DECODER-8_7-NAND2_N38454 0
+  CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER-8_7-NAND2_M10         DECODER-8_7-NAND2_N39060 0
+  DECODER-8_7-NAND2_N43046 0 CMOSN  
+ L=.5u  
+ W=.8u         
V_DECODER-8_V1         DECODER-8_N486251 0 5
R_DECODER-8_4-NAND_R3         DECODER-8_LSB-3 0  10Meg  
M_DECODER-8_4-NAND_M1         N00162 DECODER-8_LSB-1 DECODER-8_4-NAND_N28403 0
+  CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER-8_4-NAND_M5         N00162 DECODER-8_LSB-3 N00201 N00201 CMOSP  
+ L=.5u  
+ W=5u         
R_DECODER-8_4-NAND_R4         DECODER-8_LSB-4 0  10Meg  
M_DECODER-8_4-NAND_M2         DECODER-8_4-NAND_N28403 DECODER-8_LSB-2
+  DECODER-8_4-NAND_N28818 0 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER-8_4-NAND_M3         N00162 DECODER-8_LSB-1 N00201 N00201 CMOSP  
+ L=.5u  
+ W=5u         
M_DECODER-8_4-NAND_M6         DECODER-8_4-NAND_N28818 DECODER-8_LSB-3
+  DECODER-8_4-NAND_N29978 0 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER-8_4-NAND_M7         DECODER-8_4-NAND_N29978 DECODER-8_LSB-4 0 0 CMOSN
+   
+ L=.5u  
+ W=.8u         
M_DECODER-8_4-NAND_M4         N00162 DECODER-8_LSB-2 N00201 N00201 CMOSP  
+ L=.5u  
+ W=5u         
M_DECODER-8_4-NAND_M8         N00162 DECODER-8_LSB-4 N00201 N00201 CMOSP  
+ L=.5u  
+ W=5u         
R_DECODER-8_4-NAND_R1         DECODER-8_LSB-1 0  10Meg  
R_DECODER-8_4-NAND_R2         DECODER-8_LSB-2 0  10Meg  
R_DECODER-8_R3         N00152 DECODER-8_N49621  1  
M_DECODER-8_2-NAND_M4         DECODER-8_2SB-2 N00537 N00201 N00201 CMOSP  
+ L=.5u  
+ W=5u         
M_DECODER-8_2-NAND_M5         DECODER-8_2SB-2 0 N00201 N00201 CMOSP  
+ L=.5u  
+ W=5u         
R_DECODER-8_2-NAND_R2         0 N00537  10Meg  
R_DECODER-8_2-NAND_R1         0 0  10Meg  
M_DECODER-8_2-NAND_M6         DECODER-8_2SB-2 0 DECODER-8_2-NAND_N23681 0 CMOSN
+   
+ L=.5u  
+ W=.8u         
M_DECODER-8_2-NAND_M2         DECODER-8_2-NAND_N23681 N00537 0 0 CMOSN  
+ L=.5u  
+ W=.8u         
R_DECODER-8_7-NAND3_R4         0 0  10Meg  
M_DECODER-8_7-NAND3_M2         DECODER-8_7-NAND3_N38454 0
+  DECODER-8_7-NAND3_N38740 0 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER-8_7-NAND3_M6         DECODER-8_7-NAND3_N38740 0
+  DECODER-8_7-NAND3_N38778 0 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER-8_7-NAND3_M8         DECODER-8_LSB-4 0 N00201 N00201 CMOSP  
+ L=.5u  
+ W=5u         
M_DECODER-8_7-NAND3_M14         DECODER-8_7-NAND3_N43125 0 0 0 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER-8_7-NAND3_M11         DECODER-8_LSB-4 0 N00201 N00201 CMOSP  
+ L=.5u  
+ W=5u         
R_DECODER-8_7-NAND3_R7         0 0  10Meg  
M_DECODER-8_7-NAND3_M3         DECODER-8_LSB-4 0 N00201 N00201 CMOSP  
+ L=.5u  
+ W=5u         
R_DECODER-8_7-NAND3_R1         0 0  10Meg  
M_DECODER-8_7-NAND3_M4         DECODER-8_LSB-4 0 N00201 N00201 CMOSP  
+ L=.5u  
+ W=5u         
R_DECODER-8_7-NAND3_R2         0 0  10Meg  
R_DECODER-8_7-NAND3_R5         0 0  10Meg  
R_DECODER-8_7-NAND3_R3         0 0  10Meg  
M_DECODER-8_7-NAND3_M13         DECODER-8_7-NAND3_N43046 0
+  DECODER-8_7-NAND3_N43125 0 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER-8_7-NAND3_M9         DECODER-8_LSB-4 0 N00201 N00201 CMOSP  
+ L=.5u  
+ W=5u         
R_DECODER-8_7-NAND3_R6         0 0  10Meg  
M_DECODER-8_7-NAND3_M12         DECODER-8_LSB-4 0 N00201 N00201 CMOSP  
+ L=.5u  
+ W=5u         
M_DECODER-8_7-NAND3_M7         DECODER-8_7-NAND3_N38778 0
+  DECODER-8_7-NAND3_N39060 0 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER-8_7-NAND3_M5         DECODER-8_LSB-4 0 N00201 N00201 CMOSP  
+ L=.5u  
+ W=5u         
M_DECODER-8_7-NAND3_M1         DECODER-8_LSB-4 0 DECODER-8_7-NAND3_N38454 0
+  CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER-8_7-NAND3_M10         DECODER-8_7-NAND3_N39060 0
+  DECODER-8_7-NAND3_N43046 0 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER-8_5-NAND_M10         DECODER-8_5-NAND_N36965 0 0 0 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER-8_5-NAND_M4         DECODER-8_2SB-1 0 N00201 N00201 CMOSP  
+ L=.5u  
+ W=5u         
R_DECODER-8_5-NAND_R1         0 0  10Meg  
R_DECODER-8_5-NAND_R2         0 0  10Meg  
R_DECODER-8_5-NAND_R3         0 0  10Meg  
M_DECODER-8_5-NAND_M7         DECODER-8_5-NAND_N33879 0 DECODER-8_5-NAND_N36965
+  0 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER-8_5-NAND_M5         DECODER-8_2SB-1 0 N00201 N00201 CMOSP  
+ L=.5u  
+ W=5u         
M_DECODER-8_5-NAND_M1         DECODER-8_2SB-1 0 DECODER-8_5-NAND_N33539 0 CMOSN
+   
+ L=.5u  
+ W=.8u         
M_DECODER-8_5-NAND_M2         DECODER-8_5-NAND_N33539 0 DECODER-8_5-NAND_N33841
+  0 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER-8_5-NAND_M6         DECODER-8_5-NAND_N33841 0 DECODER-8_5-NAND_N33879
+  0 CMOSN  
+ L=.5u  
+ W=.8u         
R_DECODER-8_5-NAND_R4         0 0  10Meg  
R_DECODER-8_5-NAND_R5         0 0  10Meg  
M_DECODER-8_5-NAND_M3         DECODER-8_2SB-1 0 N00201 N00201 CMOSP  
+ L=.5u  
+ W=5u         
M_DECODER-8_5-NAND_M8         DECODER-8_2SB-1 0 N00201 N00201 CMOSP  
+ L=.5u  
+ W=5u         
M_DECODER-8_5-NAND_M9         DECODER-8_2SB-1 0 N00201 N00201 CMOSP  
+ L=.5u  
+ W=5u         
R_DECODER-8_R1         DECODER-8_N486251 DECODER-8_N49621  10Meg  
R_DECODER-8_R2         DECODER-8_N49621 0  1  
M_DECODER-8_2-NAND1_M4         N00156 DECODER-8_2SB-2 N00201 N00201 CMOSP  
+ L=.5u  
+ W=5u         
M_DECODER-8_2-NAND1_M5         N00156 DECODER-8_2SB-1 N00201 N00201 CMOSP  
+ L=.5u  
+ W=5u         
R_DECODER-8_2-NAND1_R2         0 DECODER-8_2SB-2  10Meg  
R_DECODER-8_2-NAND1_R1         0 DECODER-8_2SB-1  10Meg  
M_DECODER-8_2-NAND1_M6         N00156 DECODER-8_2SB-1 DECODER-8_2-NAND1_N23681
+  0 CMOSN  
+ L=.5u  
+ W=.8u         
M_DECODER-8_2-NAND1_M2         DECODER-8_2-NAND1_N23681 DECODER-8_2SB-2 0 0
+  CMOSN  
+ L=.5u  
+ W=.8u         
R_R1         N00152 N00201  10Meg  
R_R2         N00156 N00201  10Meg  
R_R3         N00162 N00201  10Meg  
V_V1         N00201 0 5
V_V2         N00537 0 5
